US04853463
To a solution of 83 mg of N-[2-(1-naphthylmethyl)-3-(morpholinocarbonyl)propionyl]-L-leucine and 40 mg of methyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride in 3 ml of N,N-dimethylformamide were added 0.049 ml of diphenylphosphoryl azide and 0.058 ml of triethylamine under ice-cooling, and the mixture was stirred overnight. The reaction mixture was evaporated under reduced pressure, and to the residue was added a 5% aqueous sodium bicarbonate solution. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatography (developing solvent: chloroform/methanol = 10/1 by volume: Rf = 0.43) to obtain 43 mg of methyl (2RS, 3S)-3-{N-[2-(1-naphthylmethyl)-3-(morpholinocarbonyl)propionyl]-L-leucyl}amino-2-hydroxy-5-methylhexanoate as a white powder.

reactant | N-[2-(1-naphthylmethyl)-3-(morpholinocarbonyl)propionyl]-L-leucine | 83 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC(C)C)C(=O)O)CC(=O)N1CCOCC1 | C25H32N2O5
reactant | methyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride | 40 mg | Cl.N[C@H](C(C(=O)OC)O)CC(C)C
reactant | diphenylphosphoryl azide | 0.049 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.058 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | methyl (2RS, 3S)-3-{N-[2-(1-naphthylmethyl)-3-(morpholinocarbonyl)propionyl]-L-leucyl}amino-2-hydroxy-5-methylhexanoate | 43 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC(C)C)C(=O)N[C@H](C(C(=O)OC)O)CC(C)C)CC(=O)N1CCOCC1 | C33H47N3O7
